US08486967B2
d) 6-Amino-5-bromo-pyridine-2-carboxylic acid methyl ester
To a solution of 6-amino-pyridine-2-carboxylic acid methyl ester (10 g, 66.0 mmol) in chloroform (450 mL) was added bromine (3.4 mL, 66.0 mmol) in CHCl3 (100 mL) at room temperature and stirred for 40 hours. The reaction mixture was diluted with CHCl3 and washed with saturated sodium thiosulfate solution and water. The organic phase was dried over sodium sulfate, the solvent was evaporated and the residue purified by silica gel column chromatography using ethyl acetate/hexane as eluent. The title compound obtained as yellow solid (3.3 g, 22%).

reactant | 6-amino-pyridine-2-carboxylic acid methyl ester | 66.0 mmol, 10 g | COC(=O)C1=NC(=CC=C1)N | C7H8N2O2
reactant | bromine | 66.0 mmol, 3.4 mL | BrBr | Br2
solvent | chloroform | 450 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-Amino-5-bromo-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=C(C=C1)Br)N | C7H7BrN2O2
